US09216173B2
To a solution of 3-bromo-1,1,1-trifluoropropan-2-one (150 g, 789 mmol) in methanol (600 mL) was added sodium borohydride (21 g, 550 mmol) in several batches at 0-5° C. over a period of 3 hours. After 2 hours post-addition, the reaction mixture was quenched with acetic acid (30 g). To this mixture was added dropwise sodium azide (5.22 M solution in water, 150 mL, 785 mmol). The reaction mixture was heated to 70° C. After 16 hours, the reaction mixture was cooled to ambient temperature, and triphenylphosphine (250 g, 954 mmol) was added. The reaction mixture was concentrated under reduced pressure, diluted with water (700 mL), and filtered. The filtrate was extracted with DCM (2×500 mL). To the combined organic layers were added potassium carbonate (2.0 g, 14 mmol) and N-(benzyloxycarbonyloxy)succinimide (1.76 M in acetone, 450 mL, 794 mmol). After 16 hours, the reaction mixture was diluted with dichloromethane (2400 mL), dried over anhydrous sodium sulfate, and concentrated under reduced pressure to afford the crude residue. The residue was purified via chromatography on silica gel (10-20% ethyl acetate/petroleum ether, linear gradient) to afford benzyl (3,3,3-trifluoro-2-hydroxypropyl)carbamate.

reactant | 3-bromo-1,1,1-trifluoropropan-2-one | 789 mmol, 150 g | BrCC(C(F)(F)F)=O | C3H2BrF3O
reactant | sodium borohydride | 550 mmol, 21 g | [BH4-].[Na+]
reactant | sodium azide | 785 mmol, 5.22 M, 150 mL | [N-]=[N+]=[N-].[Na+]
reactant | triphenylphosphine | 954 mmol, 250 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium carbonate | 14 mmol, 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-(benzyloxycarbonyloxy)succinimide | 794 mmol, 1.76 M, 450 mL | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
solvent | methanol | 600 mL | CO | CH4O
solvent | dichloromethane | 2400 mL | ClCCl | CH2Cl2
product | benzyl (3,3,3-trifluoro-2-hydroxypropyl)carbamate | FC(C(CNC(OCC1=CC=CC=C1)=O)O)(F)F | C11H12F3NO3
